US05650428
The procedure described in Example 79 was repeated, except that (RS)-2-(4-chlorobenzenesulfonylamino)-3-methanesulfonyloxy-N-(7-methoxycarbonylheptyl)propanamide (152.2 mg) was reacted with imidazole to obtain the desired (RS)-2-(4-chlorobenzenesulfonylamino)-3-(1H-imidazol-1yl)-N-(7-methoxycarbonylheptyl)propanamide (53.4 ml) together with a less polar by-product. The by-product was not investigated further.

reactant | (RS)-2-(4-chlorobenzenesulfonylamino)-3-methanesulfonyloxy-N-(7-methoxycarbonylheptyl)propanamide | 152.2 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NCCCCCCCC(=O)OC)COS(=O)(=O)C | C19H29ClN2O8S2
reactant | imidazole | N1C=NC=C1 | C3H4N2
product | (RS)-2-(4-chlorobenzenesulfonylamino)-3-(1H-imidazol-1yl)-N-(7-methoxycarbonylheptyl)propanamide | 53.4 ml | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NCCCCCCCC(=O)OC)CN1C=NC=C1 | C21H29ClN4O5S
